Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
fentanyl
 
Attending: ___.
 
Chief Complaint:
throat pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ with well-controlled HIV, very mild asthma,
depression, prior tonsillectomy, who presented with worsening
sore throat with new difficulty swallowing.

He tells me that he was in his usual state of excellent health
until about 1 week ago when he made note of sore throat.
Initially mild, it slowly began to worsen so he went to his PCP
office for evaluation. He had rapid strep testing and gonorrhea
testing which were negative, and he was provided with 
reassurance
that this was likely a viral syndrome, sent home with
instructions to do saline gargles, etc. Unfortunately, in the
days since his symptoms became progressively worse, and he began
to notice a fullness in the left side of his neck. Then this
morning he woke up and noted significant difficulty swallowing,
had a choking event while sipping his morning coffee.

He called his PCP office and was planning to go in for 
evaluation
when he was directed to the ED given the difficulty swallowing.
He therefore self presented to our ED.

In the ED, he had stable vital signs and unremarkable labs. He
had CT neck which showed 1cm left PTA with inflammation of the
retropharyngeal space and effacement of the oropharynx superior
to vocal cords. ENT was consulted and recommended IV antibiotics
and Decadron, with admission to floor with continuous pulse
oximetry monitoring. He received IVF, Unasyn, and Dexamethasone
10mg IV, and admission was requested.

He currently reports feeling remarkably improved after the first
dose of decadron, with greatly improved soreness. He is not
having any difficulty managing his secretions. He has mild -
moderate tenderness in his left anterior neck with a painful
fullness in that area, but it is also improved.

REVIEW OF SYSTEMS
Denied significant fevers or chills. Denied cough or shortness 
of
breath. A full 10 point review of systems was performed and is
otherwise negative except as noted above.
 
Past Medical History:
HIV, asymptomatic
Asthma
Major depression
Surgeries: Hand surgery, tonsillectomy
 
Social History:
___
Family History:
Family history was reviewed and is thought impertinent to 
current
presentation. Mother with history of kidney disease.
 
Physical Exam:
Vitals: 98.6 127 / 72 64 18 94 RA
Gen: NAD, lying in bed
Eyes: EOMI, sclerae anicteric  
HENT: NCAT, MMM, OP clear, slight fullness left of the uvula,
palpable nodule in the left submandibular area/anterior neck 
that
is moderately tender, hearing adequate
Cardiovasc: RRR, no obvious MRG. Full pulses, no edema.
Resp: normal effort, breathing unlabored, no accessory muscle
use, lungs CTA ___ without adventitious sounds.
GI: Soft, NT, ND, BS+. No HSM.
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect. Thought linear. Very pleasant.
GU: No foley

 
Pertinent Results:
___ 07:00AM BLOOD WBC-23.8*# RBC-4.31* Hgb-13.5* Hct-39.6* 
MCV-92 MCH-31.3 MCHC-34.1 RDW-12.2 RDWSD-41.1 Plt ___
___ 07:00AM BLOOD WBC-8.8 RBC-4.51* Hgb-13.9 Hct-40.2 
MCV-89 MCH-30.8 MCHC-34.6 RDW-11.9 RDWSD-38.7 Plt ___
___ 12:15PM BLOOD WBC-8.3# RBC-4.56* Hgb-14.3 Hct-41.7 
MCV-91 MCH-31.4 MCHC-34.3 RDW-12.5 RDWSD-41.7 Plt ___
___ 07:00AM BLOOD Neuts-90.8* Lymphs-5.7* Monos-3.0* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-21.66*# AbsLymp-1.36 
AbsMono-0.72 AbsEos-0.00* AbsBaso-0.03
___ 12:15PM BLOOD Neuts-69.3 ___ Monos-7.7 Eos-1.2 
Baso-0.2 Im ___ AbsNeut-5.77# AbsLymp-1.76 AbsMono-0.64 
AbsEos-0.10 AbsBaso-0.02
___ 07:00AM BLOOD ___ PTT-29.5 ___
___ 07:00AM BLOOD Glucose-158* UreaN-17 Creat-0.9 Na-140 
K-4.6 Cl-98 HCO3-27 AnGap-15
___ 12:15PM BLOOD Glucose-89 UreaN-16 Creat-1.1 Na-138 
K-4.5 Cl-96 HCO3-29 AnGap-13
___ 07:00AM BLOOD ALT-11 AST-11 AlkPhos-62 TotBili-0.3
___ 07:00AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.1
___ 12:15PM BLOOD Calcium-9.3 Phos-3.6 Mg-2.1
___ 07:00AM BLOOD CMV VL-PND

IMPRESSION:  
1.0 cm left peritonsillar abscess with substantial inflammation 
involving 
the adjacent deep neck spaces, including the retropharyngeal 
space, with 
severe effacement of the oropharynx extending just superior to 
the level of the vocal cords. 

microbiology:
___ THROAT CULTURE VIRAL CULTURE: R/O HERPES 
SIMPLEX VIRUS-PENDING INPATIENT 
___ THROAT CULTURE R/O Beta Strep Group 
A-PENDING INPATIENT 
___ Blood (EBV) ___ VIRUS VCA-IgG 
AB-PENDING; ___ VIRUS EBNA IgG AB-PENDING; ___ 
VIRUS VCA-IgM AB-PENDING INPATIENT 
___ Blood (CMV AB) CMV IgG ANTIBODY-PENDING; 
CMV IgM ANTIBODY-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY WARD 
___ JOINT FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
{CANCELLED} EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
{CANCELLED} EMERGENCY  

 
Brief Hospital Course:
This is a ___ with well-controlled HIV, very mild asthma,
depression, prior tonsillectomy, who presented with worsening
sore throat with new difficulty swallowing, found to have
peritonsillar abscess with retropharyngeal inflammation.

# Worsening sore throat with 
# dysphagia
# Peritonsillar abscess
# Retropharyngeal space infection: CT with PTA. Pt with rapid
improvement after IV abx and decadron. Much improved on ENT
reevaluation ___ and ENT recommended DC of steroids to not 
facilitate
worsening infection. Pt continued to improve with improved pain,
swelling, and was tolerating a regular diet prior to DC. No 
episodes of hypoxia
or respiratory difficulty during admission, no fevers. Pt 
receivied IV unasyn until ___ when he was converted to PO 
augmentin for 10 more days. He will f/u in ___ clinic in 3 
weeks. Infectious w/u sent including EBV, CMV, strep, 
gonorrhea/chlamydia and was PENDING at the time of discharge.   

#leukocytosis: suspect mostly related to IV decadron dosing.
Could also be due to infection. However, clinically pt with
resoliving infection, improved symptoms and no suggestion of
airway issues, fever, or complicated infection at this time. 

# Well controlled HIV: Per report, no complications,
asymptomatic. Per PCP, last VL low, and CD4 count in the 800's
Continued Genvoya daily

# Mild asthma-restarted home albuterol on DC

# Depression: Continued celexa daily

Transitional care
1. f/u pending labs and microbiology at time of DC

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Genvoya (elviteg-cob-emtri-tenof ALAFEN) ___ mg 
oral DAILY 
2. Citalopram 10 mg PO DAILY 
3. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
you can purchase over the counter. Do not drink alcohol with 
this medication.  
2.  Amoxicillin-Clavulanic Acid ___ mg PO/NG Q12H Duration: 10 
Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*20 Tablet Refills:*0 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Severe 
if Tylenol fails. Would try to avoid given recent issues with 
your kidneys though labs ok here.  
4.  Citalopram 10 mg PO DAILY  
5.  Genvoya (elviteg-cob-emtri-tenof ALAFEN) ___ mg 
oral DAILY  
6.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pharyngitis, peritonsillar abscess
HIV 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for treatment of a throat infection called a 
peritonsillar abscess. For this, you were given IV steroids and 
IV antibiotics with marked improvement. You were able to 
tolerate a regular diet by the time of discharge. You will need 
to continue antibiotics (augmentin) for 10 days and see the ENT 
doctors in ___ in 3 weeks. You have several pending labs at 
discharge that will need to be followed up. You can take 
acetaminophen as directed for pain. If you have more pain you 
can try ibuprofen, but would use sparingly given recent issues 
with your kidneys per your primary care doctor. However, of 
note, this was not the case during this admission and your 
kidney function was normal. 
 
Followup Instructions:
___